Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
paranoid ideation and anxiety
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o M with no formal psychiatric diagnoses and 1 prior psych 
hospitalization at ___ in ___ for anxiety who presents 
with paranoid ideation and anxiety.

On interview, patient states that his twin brother drove him to 
the ED. He frequently repeats "I'm so confused" and "I'm very 
scared." He states that he had a "wicked bad episode" in ___, 
during which he believed that he was being followed and was 
worried about his job as ___ at ___ 
___. Pt has become paranoid that his superintendent has 
been looking to his criminal record without his permission. He 
frequently asks "is it okay to talk about his?" and "is this 
normal?" He asks "is there any media involved with
my school here?" 

Patient then abruptly become very tearful and talks about caring 
for a young man, who is now ___ years old, but patient had 
feelings for him when he was ___ year old. Patient says there was 
never any intercourse but the feelings were mutual. He says he 
wants to make sure this young man is okay. 

Patient reports "always" hearing sound of pets that have died. 
For example, he hears them "walking up the stairs or jumping 
onto the bed." When asked about his sleep, patient says he can't 
remember and then becomes very tearful. Patient currently denies 
auditory/visual hallucinations and grandiose delusions. Patient 
denies suicidal/homicidal ideation/plans/intent.  

Pt reports incidents of physical altercation with his brother, 
but no sexual offenses. He endorses chronic marijuana use 
(almost daily), ___ alcoholic drinks per week, prior cocaine use 
(last used about ___ year ago), and prior crack use (last used in 
___. Collateral from ___'s brother concerning for erratic 
behavior. He denies mood symptoms except anxiety. He reports 
poor sleep, decreased appetite, overwhelmingly anxiety, 
tearfulness, hyper energy, poor concentration, and suspicion. Pt 
has been prescribed risperidone in a past with a good effect, 
however prior to admission he had stopped taking it.
 
Past Medical History:
 - No chronic conditions
 - No history of seizures or head injury

Past Psychiatric History:
 - Prior diagnoses: patient is unclear, reports paranoia in
___ requiring inpatient psychiatric hospitalization at ___
 - Hospitalizations: inpatient psychiatric hospitalization at
___ ___
 - Current treaters and treatment: none
 - Medication and ECT trials: previously on Risperidone 
 - Suicide attempts: denies
 - Self-injurious behavior: denies
 - Harm to others: previously arrested and incarcerated for
assault and battery towards twin brother, last time ___ yr ago
 - Access to weapons: denies

 
Social History:
SOCIAL HISTORY:
 -Born/Raised: ___
 -Family/Support: mother, father, twin brother, sister (age ___
parents getting divorced
 -Relationship status/Children: homosexual, single
 -Housing: lives in a house with his mother in ___
 -Education: Bachelor's in ___ at ___
 -Employment/Income: ___ at ___
 -Trauma history: physical abuse (father); thinks he may have 
had
sexual trauma at age ___ 

SUBSTANCE ABUSE HISTORY:
 - Alcohol: ___ drinks every other day
 - Tobacco: 0.5 ppd
 - Cocaine: previous use, last time ___ yr ago
 - Crack: used 4 times, last time in ___
 - Marijuana: last time 1 wk ago, unclear amount/frequency but
says not daily
 - Opiates: denies
 - Meth: denies 
 - Benzos: denies 
 - LSD/MDMA: denies 
 - IVDU: denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
 -History of psychiatric disorders: mother - "needs help"
 -History of suicide attempts/self-injurious behavior: denies
 -History of substance use: denies
 
Physical Exam:
Exam on admission:
EXAM: 
 VS:  T 98.2, HR 97, BP 137/94, RR 18, O2 sat 99% RA 

Neurological:  
 Station and gait: normal stance, no truncal ataxia, steady gait
 Tone and strength: spontaneously moves all extremities
antigravity
 Cranial nerves: EOMI, no facial asymmetry, hearing intact
bilaterally
 Abnormal movements: no tics, tremor, or abnormal posturing
 Frontal release: not assessed

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: MOYB ___ -> ___ says "I can't" and
becomes tearful
  Orientation: person, time ___, closer to the beginning of
the month), place (BI, ___, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration, ___ recall after 5 min ___ with
categorical clue and ___ with MC options), long-term grossly
intact
  Fund of knowledge: consistent with education; president elect 
=
___; current president = ___
  Calculations: $1.75 = "7 quarters"
  Abstraction: interprets "don't judge a book by its cover" as
"you don't know what someone's been through" and apples/oranges 
=
"round"
  Visuospatial: not assessed
 Speech: increased rate but interruptible; normal volume, 
rhythm,
and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
  
 Mental Status:
  Appearance: Caucasian man, appears stated age, well groomed,
wearing hospital gown, multiple bracelets
 Behavior: cooperative, engaged, appropriate eye contact,
psychomotor agitation (moves around a lot in bed, frequently
changes positions), frequently attempts to touch this
interviewer's arm to get a point across 
  Mood and Affect: "overwhelmed and scared" / labile affect,
smiling, crying abruptly 
  Thought process: mostly circumstantial, at times tangential,
frequently redirectable with closed ended questions
  Thought Content: denies SI/HI/AH/VH, evidence of paranoia, no
grandiosity
  Judgment and Insight: poor/poor

Exam on Discharge:
 
Pertinent Results:
___ 10:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-70 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:35PM   GLUCOSE-114* UREA N-14 CREAT-1.1 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-27 ANION GAP-18
___ 07:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:35PM   WBC-7.3 RBC-5.51 HGB-16.3 HCT-47.0 MCV-85 
MCH-29.6 MCHC-34.7 RDW-11.6 RDWSD-35.9
___ 07:35PM   NEUTS-58.4 ___ MONOS-8.1 EOS-0.3* 
BASOS-0.6 IM ___ AbsNeut-4.25 AbsLymp-2.36 AbsMono-0.59 
AbsEos-0.02* AbsBaso-0.04
___ 07:35PM   PLT COUNT-___) #Legal/Safety: Patient signed a CV. He was on q15 minute 
checks. No sharps or restraints.

2) #Psychiatry: Patient was admitted to inpatient psychiatry for 
diagnostic
clarification, medication management, psychotherapeutic 
intervention, and
collaboration/establishment with outpatient providers. He was 
started on the following medications to good effect. On the 
floor he experienced a decrease in suspicion and anxiety which 
was maintained throughout his admission.
 - initiated Risperidone 1mg BID, titrated to 2mg BID
 - initiated Benzotropine 1mg qHS
 - Provided individual, group, and milieu therapy. Pt was 
engaged and interactive in nearly every group throughout 
admission.

3. SUBSTANCE USE DISORDERS:
#)Alcohol and Marijuana: discussed the importance of abstaining 
from intoxicants including specifically alcohol and marijuana. 
Pt went to AA meeting during admission and would like to go to 
meetings after discharge. Team encouraged patient to do so, and 
discussed the risks of drinking and smoking. 

4) #Medical: Patient had no ongoing medical problems requiring 
management. Given the patient's smoking history (0.5 ppd) he was 
offered a nicotine stick as needed for cravings. A TSH level was 
ordered and returned 2.5 (within normal limits) thus ruling out 
thyrotoxicosis.
 - Nicotine Polacrilex 1 STCK PO Q1h PRN cravings was offered

5) GROUPS/MILIEU:  The patient was encouraged to participate in 
the various groups and milieu therapy opportunities offered by 
the unit. The patient attended almost every group offered, 
especially enjoying those that focused on teaching patients 
various coping skills. He was friendly with patients and staff 
alike, engaged with his own health and progress.

6) #SW/Dispo: Social Work worked with patient to update his 
family per the patient's consent. Family came for team-wide 
meeting the day before discharge. He was discharged following 
improvement of symptoms and establishment of follow-up 
outpatient care. The team continued to reinforce the patient's 
understanding of his treatment and his disposition plan during 
his admission.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting risperidone, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

 

RISK ASSESSMENT

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and/or others based upon 
concern for psychosis and impaired judgment.  Their static 
factors noted at that time include race, gender, single status, 
prior psychiatric hospitalization, and legal history. 
Modifiable risk factors addressed as follows:
concurrent substance use: discussed abstinence and AA meetings 
following d/c
no active treatment/no treaters: Set up follow up appointment
Concern for psychosis and significantly impaired 
insight/judgment: risperidone given and patient stabilized, 
showing improved judgment and no psychotic symptoms 
Finally, the patient is being discharged with many protective 
risk factors, (no prior suicide attempts, good educational 
background, employment status, and no
access to weapons). Overall, Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 

Our Prognosis of this patient is fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO QHS 
RX *benztropine 1 mg 1 tablet(s) by mouth Nightly Disp #*30 
Tablet Refills:*2 
2.  RisperiDONE 2 mg PO BID 
RX *risperidone 2 mg 1 tablet(s) by mouth Twice per day Disp 
#*60 Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar Affective Disorder Type I

 
Discharge Condition:
Stable. Improved and at baseline. 
 
Discharge Instructions:
Discharge Instructions:

You were hospitalized at ___ for paranoid delusions and 
anxiety, symptoms of Bipolar Affective Disorder.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

-Please continue all medications as directed.

-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.

-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___